US08563717B2
6-Amino-2-{[(1S)-1-methylbutyl]oxy}-9-[2-(3-piperidinyl)ethyl]-7,9-dihydro-8H-purin-8-one
To a solution of 2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9-[2-(3-piperidinyl)ethyl]-9H-purin-6-amine (35 mg, 0.097 mmol) in methanol (4 ml) was added 4M HCl in dioxane (1.5 ml, 6.00 mmol) and the mixture was allowed to stir at room temperature for 1.5 hours. The reaction was then dried under a stream of nitrogen in the Radleys blowdown apparatus to give the crude product. This was redissolved in methanol (˜5 mL) and passed down a 2 g aminopropyl (—NH2) SPE cartridge. The filtrate was dried under a stream of nitrogen in Radleys blowdown apparatus. The sample was dissolved in 1:1 MeOH:DMSO (1 ml) and purified by Mass Directed AutoPrep (Method A). The solvent was dried under a stream of nitrogen in the Radleys blowdown apparatus to give the title compound as an off-white solid (21.5 mg). LCMS (System D): tRET=2.25 min; MH+ 349

reactant | 2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9-[2-(3-piperidinyl)ethyl]-9H-purin-6-amine | 0.097 mmol, 35 mg | C[C@@H](CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1CNCCC1)OC)N | C18H30N6O2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 6.00 mmol, 1.5 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 4 ml | CO | CH4O
solvent | methanol | ˜5 mL | CO | CH4O
product | 6-Amino-2-{[(1S)-1-methylbutyl]oxy}-9-[2-(3-piperidinyl)ethyl]-7,9-dihydro-8H-purin-8-one | 21.5 mg | NC1=C2NC(N(C2=NC(=N1)O[C@H](CCC)C)CCC1CNCCC1)=O | C17H28N6O2
